US07713994B2
2-Hydroxymethyl-5-(2-pyrrolidin-1-yl-ethoxy)-pyran-4-one
A mixture of kojic acid (28.4 g, 0.20 mole), 300 mL of 2-butanone, potassium carbonate powder (27.6 g, 0.20 mole), potassium iodide (1.66 g, 0.01 mole), and 1-(2-chloro-ethyl)-pyrrolidine (26.7 g, 0.20 mole) is stirred at a gentle reflux overnight. The reaction mixture is cooled, filtered, washed with acetone and the filtrate evaporated. Water is added and extracted with chloroform (3×100 mL) and ethyl acetate (6×100 mL). The combined organics were dried with sodium sulfate and passed through a pad of magnesol and silica gel eluting with ethyl acetate. The eluate is evaporated in vacuo and crystallized with hexane/ethyl acetate (2/1) to give an off-white solid, 3.05 g, (6%); MS (ES+): m/z 240.3 (M+H).

reactant | kojic acid | 0.20 mole, 28.4 g | C1=C(OC=C(C1=O)O)CO | C6H6O4
reactant | potassium carbonate | 0.20 mole, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.01 mole, 1.66 g | [I-].[K+]
reactant | 1-(2-chloro-ethyl)-pyrrolidine | 0.20 mole, 26.7 g | ClCCN1CCCC1 | C6H12ClN
solvent | 2-butanone | 300 mL | CC(CC)=O | C4H8O
product | 2-Hydroxymethyl-5-(2-pyrrolidin-1-yl-ethoxy)-pyran-4-one | OCC=1OC=C(C(C1)=O)OCCN1CCCC1 | C12H17NO4
